US04713392
A. 1-cyano-1-(4-ethoxyphenyl)cyclopropane (Compound a)
1.6M n-Butyllithium (680 ml) is added over 5 min to a stirred solution of 4-ethoxyphenyl acetonitrile (56 g) in anhydrous THF (600 ml) at 25° C. under an atmosphere of nitrogen. After 1 h, a solution of 1.2 dichloroethane (111 g) in anhydrous THF (300 ml) is added dropwise over 2 h and the mixture stirred at 25° C. for 16 h. The mixture is then poured onto 3N HCl (1 l ), concentrated under reduced pressure, extracted with diethyl ether (x3), washed with water, dried over anhydrous sodium sulphate, the solvent removed under reduced pressure and the residue distilled to give the product, b.p. 116°-120° C., yield 40 g. nD 1.5320.

reactant | n-Butyllithium | 1.6M, 680 ml | C(CCC)[Li]
reactant | 4-ethoxyphenyl acetonitrile | 56 g | C(C)OC1=CC=C(C=C1)CC#N | C10H11NO
reactant | dichloroethane | 111 g | ClC(C)Cl | C2H4Cl2
reactant | HCl | 3N, 1 l | Cl | ClH
solvent | THF | 600 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 1-cyano-1-(4-ethoxyphenyl)cyclopropane | C(#N)C1(CC1)C1=CC=C(C=C1)OCC | C12H13NO
